US06756378B2
To a stirred solution of N-Boc-2-(S)-benzoyloxymethyl-5-(S)-benzyloxymethylpyrrolidine (1.23 g, 2.89 mmol) in MeOH (30 ml) was added NaOH (1.0 M in water, 3.47 ml, 3.47 mmol) at rt, and the resulting mixture was stirred for 4 h. The mixture was neutralized with aq.1N-HCl and concentrated in vacuo, then extracted with CHCl3. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (3:1) as eluent to give N-Boc-5-(S)-hydroxymethyl-2-(S)-benzyloxymethylpyrrolidine (847 mg, 91%) as a colorless oil. 1H-NMR (CDCl3) δ1.41 (s, 9 H), 1.57 (brs, 1 H), 1.95-1.97 (m, 2 H), 2.05-2.18 (m, 1 H), 3.36 (t, J=8.4 Hz, 1 H), 3.56-3.62 (m, 2 H), 3.67-3.72 (m, 2 H), 3.95 (brs, 1 H), 4.03 (brs, 1 H), 4.51 (s, 1 H), 7.28-7.37 (m, 5H); MS (FAB) m/z, 322 (M++H).

reactant | N-Boc-2-(S)-benzoyloxymethyl-5-(S)-benzyloxymethylpyrrolidine | 2.89 mmol, 1.23 g | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1COCC1=CC=CC=C1)COC(C1=CC=CC=C1)=O | C25H31NO5
reactant | NaOH | 3.47 mmol, 1.0 M, 3.47 ml | [OH-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | N-Boc-5-(S)-hydroxymethyl-2-(S)-benzyloxymethylpyrrolidine | 847 mg, 91% | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1CO)COCC1=CC=CC=C1 | C18H27NO4
